US07314888B1
In 10 ml of tetrahydrofuran is dissolved 1.00 g of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoic acid, to which is added 0.52 g of 1,1′-carbonyldiimidazole at ambient temperature. The mixture thus obtained is heated under reflux for one hour with stirring. To the reaction mixture cooled to ambient temperature are added 0.22 g of methane-sulfonamide and 0.4 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene, and the mixture thus obtained is stirred for 30 minutes at ambient temperature. The reaction mixture is added to a mixture of chloroform and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=2:1) to obtain 1.10 g of N-{3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoyl}methanesulfonamide as a white-colored foaming product.

reactant | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoic acid | 1.00 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C28H38O6
reactant | 1,1′-carbonyldiimidazole | 0.52 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methane-sulfonamide | 0.22 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.4 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoyl}methanesulfonamide | 1.10 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)NS(=O)(=O)C)OCC(C)C)C=CC(=C1)OCC(C)C | C29H41NO7S
